US06294558B1
5-(4-Bromophenyl)-2-methyl-4-[4-(methylthio)phenyl]-1,3-thiazole
A mixture of 2-bromo2-(4-bromophenyl)-1-(4-methylthiophenyl)ethanone (7.6 g, 0.018 mol) and thioacetamide 1.4 g, 0.018 mol) in ethanol (150 mL) was refluxed for 1 day. The mixture was concentrated and the solid was purified by flash chromatography eluting with CH2Cl2/hexane (2/1) to give title compound (3.8 g, 56%).

reactant | 2-bromo2-(4-bromophenyl)-1-(4-methylthiophenyl)ethanone | 0.018 mol, 7.6 g | BrC(C(=O)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)Br | C15H12Br2OS
reactant | thioacetamide | 0.018 mol, 1.4 g | C(C)(=S)N | C2H5NS
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 5-(4-Bromophenyl)-2-methyl-4-[4-(methylthio)phenyl]-1,3-thiazole | 3.8 g, 56% | BrC1=CC=C(C=C1)C1=C(N=C(S1)C)C1=CC=C(C=C1)SC | C17H14BrNS2
